US08557830B2
A glass microwave reaction vessel was charged with 1-chloro-6-methyl-5-nitroisoquinoline (0.22 g, 1.0 mmol), (R)-1-(4-chlorophenyl)ethanamine (0.31 g, 2.0 mmol), 2,2,2-trifluoroacetic acid (0.011 g, 0.10 mmol) and isopropanol (1 mL). The reaction mixture was stirred and heated in a microwave reactor at 140° C. for 60 min. The reaction mixture was diluted with chloroform, washed with 10% sodium carbonate, dried over sodium sulfate and concentrated. The crude product was chromatographed on silica gel eluting with 20% ethyl acetate/hexane to give (R)-N-(1-(4-chlorophenyl)ethyl)-6-methyl-5-nitroisoquinolin-1-amine as a solid. MS Found: (ESI pos. ion) m/z 342 (M+H+).

reactant | 1-chloro-6-methyl-5-nitroisoquinoline | 1.0 mmol, 0.22 g | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
reactant | (R)-1-(4-chlorophenyl)ethanamine | 2.0 mmol, 0.31 g | ClC1=CC=C(C=C1)[C@@H](C)N | C8H10ClN
reactant | 2,2,2-trifluoroacetic acid | 0.10 mmol, 0.011 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-N-(1-(4-chlorophenyl)ethyl)-6-methyl-5-nitroisoquinolin-1-amine | ClC1=CC=C(C=C1)[C@@H](C)NC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C18H16ClN3O2
